US04863921
METHYL 3-(3-HEXENYL)-4-ACETYLAMINO-5-CHLOROSALICYLATE
A mixture of 0.6 g of methyl 2-(cyclohexen-3-yloxy)-4-acetylamino-5-chlorobenzoate and 0.5 ml diethylaniline is placed under house vaccum and heated to 220° C. for 2 hours. This reaction mixture is then diluted with 40% ethylacetate/hexane and purified by dry column chromatography using the same solvent system as eluent. Three fractions are separated: 1. diethylaniline; 2. starting benzoate compound and 3. methyl 3-(3-hexenyl)-4-acetylamino-5-chlorosalicylate. The latter is used directly in the next step.

reactant | methyl 2-(cyclohexen-3-yloxy)-4-acetylamino-5-chlorobenzoate | 0.6 g | C1=CC(CCC1)OC1=C(C(=O)OC)C=C(C(=C1)NC(C)=O)Cl | C16H18ClNO4
reactant | diethylaniline | 0.5 ml | CCN(CC)C=1C=CC=CC1 | C10H15N
solvent | ethylacetate hexane | C(C)OC(C)=O.CCCCCC
product | METHYL 3-(3-HEXENYL)-4-ACETYLAMINO-5-CHLOROSALICYLATE | C(CC=CCC)C1=C(C(C(=O)OC)=CC(=C1NC(C)=O)Cl)O | C16H20ClNO4
